US05436229
A solution of 25 g (155 mmol) of indole-3-carboxylic acid in 1500 mL H2O and 150 mL HOAc was charged with 25 g of 5% Rh/Al2O3 and the mixture hydrogenated at 60 psi for 30 hr at 60° C. The mixture was filtered through Celite® and evaporated in vacuo to a dark oil which was treated with benzylchloroformate (26.35 g; 155 mmol) under basic conditions substantially according to the procedures of Example 15, A. The crude product crystallized out of hot CH2Cl2 /hexanes to yield 16.06 g (53 mmol; 49%) of N-Cbz-3-perhydroindolylcarboxylic acid as a white solid.

reactant | indole-3-carboxylic acid | 155 mmol, 25 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | benzylchloroformate | 155 mmol, 26.35 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | H2O | 1500 mL | O | H2O
solvent | HOAc | 150 mL | CC(=O)O | C2H4O2
catalyst | Rh/Al2O3 | 25 g | [Rh] | Rh
product | N-Cbz-3-perhydroindolylcarboxylic acid | 53 mmol, 16.06 g, 49% | C(=O)(OCC1=CC=CC=C1)N1CC(C2CCCCC12)C(=O)O | C17H21NO4
